US08859774B2
A mixture of (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone (92 mg, 0.165 mmol) and (R)-3-fluoropyrrolidine.HCl (41.6 mg, 0.331 mmol) in N,N-dimethylformamide (2 mL) was stirred in a sealed vial at 40° C. for 1 hour, then at 55° C. for a further 2 hours. The cooled reaction mixture was then purified directly by preparative HPLC (Waters, Acidic (0.1% Formic acid), Waters X-Select Prep-C18, 5 μm, 19×50 mm column, 5-95% acetonitrile in water) to afford ((R)-1-(4-fluorophenyl)-6-((6-((R)-3-fluoropyrrolidin-1-yl)pyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone as a white solid (17 mg). LCMS (Method F, ES-API): RT 2.39 min, m+H=609.2; 1H NMR (400 MHz, CDCl3): δ 8.46 (1H, d, J=2.6 Hz), 7.95 (1H, d, J=3.1 Hz), 7.64 (1H, dd, J=9.0, 2.4 Hz), 7.61 (1H, d, J=3.1 Hz), 7.45-7.40 (2H, m), 7.28 (1H, s), 7.19-7.13 (2H, m), 6.52 (1H, d, J=2.3 Hz), 6.27 (1H, d, J=9.1 Hz), 5.48-5.35 (2H, m), 4.17 (1H, d, J=16.8 Hz), 3.92-3.59 (6H, m), 2.92-2.82 (2H, m), 2.77 (1H, d, J=12.3 Hz), 2.59-2.42 (3H, m).

reactant | (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 0.165 mmol, 92 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C=3SC=CN3 | C25H19ClFN5O3S2
reactant | (R)-3-fluoropyrrolidine | F[C@H]1CNCC1 | C4H8FN
reactant | HCl | 0.331 mmol, 41.6 mg | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | ((R)-1-(4-fluorophenyl)-6-((6-((R)-3-fluoropyrrolidin-1-yl)pyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 17 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2SC=CN2)S(=O)(=O)C=2C=NC(=CC2)N2C[C@@H](CC2)F | C29H26F2N6O3S2
